US07132425B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-propionamide (8.85 g, 17.4 mmol) in tetrahydrofuran (50 mL) was treated with a 1N aqueous hydrochloric acid solution (50 mL). The resulting milky reaction mixture was stirred at 25° C., and within 15 min, the milky reaction mixture became clear. The stirring was continued at 25° C. for 16 h. The reaction was concentrated in vacuo, and the residue was extracted with methylene chloride (1×100 mL then 2×50 mL). Each organic extract was washed with a saturated aqueous sodium bicarbonate solution (50 mL) and a saturated aqueous sodium chloride solution (50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 1/1 ethyl acetate/hexanes then 100% ethyl acetate) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide (7.15 g, 88%) as a colorless foam: (ES)+-HRMS m/e calcd for C21H26ClN3O5S (M+H)+ 468.1355, found 468.1360.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-propionamide | 17.4 mmol, 8.85 g | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)[C@@H]1OC(OC1)(C)C)CC1CCCC1 | C24H30ClN3O5S
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide | 7.15 g, 88% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)[C@@H](CO)O)CC1CCCC1 | C21H26ClN3O5S
